US06211199B1
1.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dimethoxyphenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dimethoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.51 g, 0.97 mmol) and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.34 g, 1.2 mmol), and N,N-diisopropylethylamine (0.25 g, 1.9 mmol) in acetonitrile (5 mL). Heat to reflux. After 54 hours, partition the residue between ethyl acetate and 5% sodium bicarbonate solution. Separate the layers and extract the organic layer with 5% sodium bicarbonate and then water. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/methanol to give a residue. Combine the residue with dichloromethane and extract with water. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Dry the residue in vacuo at 60° C. to give the title compound: Rf=0.37 (silica gel, 1/1 ethyl acetate/methanol).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dimethoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 0.97 mmol, 0.51 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C1OC)OC | C25H33NO9S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.2 mmol, 0.34 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 1.9 mmol, 0.25 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dimethoxyphenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C40H53N5O7
